US09303028B2
To a RBF was added tert-butyl 4-(3-(3-fluoro-4-(methylcarbamoyl)phenyl)pyrazin-2-yl)piperidine-1-carboxylate (2.40 g, 5.79 mmol) and methanol (20 mL) was added 4M HCl in dioxane (5 mL, 20.00 mmol). The solution was stirred at room temperature. After 96 h, the reaction was concentrated in vacuo to give 2-fluoro-N-methyl-4-(3-(piperidin-4-yl)pyrazin-2-yl)benzamide trihydrochloride (2.46 g, 5.81 mmol, 100% yield), as a yellow foam. The 3 HCl equivalent was determined from the weight of the compound, without further characterization.

reactant | tert-butyl 4-(3-(3-fluoro-4-(methylcarbamoyl)phenyl)pyrazin-2-yl)piperidine-1-carboxylate | 5.79 mmol, 2.40 g | FC=1C=C(C=CC1C(NC)=O)C=1C(=NC=CN1)C1CCN(CC1)C(=O)OC(C)(C)C | C22H27FN4O3
reactant | HCl | 4M | Cl | ClH
reactant | dioxane | 20.00 mmol, 5 mL | O1CCOCC1 | C4H8O2
solvent | methanol | 20 mL | CO | CH4O
product | 2-fluoro-N-methyl-4-(3-(piperidin-4-yl)pyrazin-2-yl)benzamide trihydrochloride | 5.81 mmol, 2.46 g, 100% yield | Cl.Cl.Cl.FC1=C(C(=O)NC)C=CC(=C1)C1=NC=CN=C1C1CCNCC1 | InChI=1S/C17H19FN4O.3ClH/c1-19-17(23)13-3-2-12(10-14(13)18)16-15(21-8-9-22-16)11-4-6-20-7-5-11;;;/h2-3,8-11,20H,4-7H2,1H3,(H,19,23);3*1H
